US07338973B2
10-[4-(2-diethylamino-ethoxy)-benzyl]-3-methoxy-10H-benzo[4,5]furo[3,2-b]indol-7-ol
A mixture of {2-[4-(7-benzyloxy-3-methoxy-benzo[4,5]furo[3,2-b]indol-10-ylmethyl)-phenoxy]-ethyl}-diethyl-amine (102 mg, 0.186 mmol) and 10% Pd/C (˜100 mg) in EtOH (10 mL) was stirred under a H2 balloon at 25° C. overnight. The solution was filtered, concentrated and purified to yield the title compound as a yellow solid.

reactant | {2-[4-(7-benzyloxy-3-methoxy-benzo[4,5]furo[3,2-b]indol-10-ylmethyl)-phenoxy]-ethyl}-diethyl-amine | 0.186 mmol, 102 mg | C(C1=CC=CC=C1)OC1=CC2=C(C=3N(C=4C=CC(=CC4C3O2)OC)CC2=CC=C(OCCN(CC)CC)C=C2)C=C1 | C35H36N2O4
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd/C | ˜100 mg | [Pd] | Pd
product | 10-[4-(2-diethylamino-ethoxy)-benzyl]-3-methoxy-10H-benzo[4,5]furo[3,2-b]indol-7-ol | C(C)N(CCOC1=CC=C(CN2C3=C(C=4C=C(C=CC24)OC)OC2=C3C=CC(=C2)O)C=C1)CC | C28H30N2O4
